US06417212B1
A. (4-Benzyloxy-2-phenethylphenoxy)acetic acid ethyl ester
4-Benzyloxy-2-phenethylphenol (1,77 mmol) was dissolved in anhydrous DMF (4 mL), followed by the addition of ethyl bromoacetate (0.29 mL, 2.65 mmol), and cesium carbonate (0.75 g, 2.30 mmol). The mixture was then heated for 18 h (55° C.). The reaction mixture was then cooled and concentrated in vacuo. The crude residue was partitioned between ethyl acetate (70 mL) and water (40 mL). The organic layer was washed with brine, dried (Na2SO4), and removed in vacuo to give the desired product.

reactant | 4-Benzyloxy-2-phenethylphenol | 1,77 mmol | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)O)CCC1=CC=CC=C1 | C21H20O2
reactant | ethyl bromoacetate | 2.65 mmol, 0.29 mL | BrCC(=O)OCC | C4H7BrO2
reactant | cesium carbonate | 2.30 mmol, 0.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (4-Benzyloxy-2-phenethylphenoxy)acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)OCC1=CC=CC=C1)CCC1=CC=CC=C1)=O | C25H26O4
